### PR TITLE
feat: generalize type classes in theorem declarations

### PR DESCRIPTION
**Pull request by vlad902**
Generalize several hundred type classes throughout Mathlib. This is a large subset of those found by a new linter.

To give some information on how the linter works: it tries to replace a given type class by a parent class. It will accept the generalization if deleting the entire type class causes the theorem to fail to compile. Otherwise, the type class is not being generalized, but can simply be replaced by implicit type class synthesis (or an implicit type class in a `variable` block being pulled in.)

Also see discussion on Zulip here:
https://leanprover.zulipchat.com/#narrow/channel/270676-lean4/topic/Elab.20to.20generalize.20type.20classes.20for.20theorems/near/498862988 https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/Elab.20to.20generalize.20type.20classes.20for.20theorems/near/501288855

### CODE REVIEW

**Comment by vlad902** [comment]
!bench

**Comment by j-loreaux** [comment]
@vlad902 generally you don't want to run `!bench` before Mathlib CI passes because the benchmark won't have anything useful to say if CI doesn't succeed, and then it's just using up benchmarking resources for no reason. Therefore, you can add the `bench-after-CI` label, which will automatically benchmark the PR after CI completes successfully (so you don't have to remember to come back to `!bench` it yourself).

For right now, don't add this label, because CI might be successful.

(Note: this is not criticism, just informational.)

**Comment by vlad902** [comment]
Good to know, thank you!

**Comment by vlad902** [comment]
The `lake lint` failures are interesting and I need to investigate more deeply. In particular it appears that in some cases my linter erroneously believes it generalizes a given type class, when what's actually happening is that the original type class is implicitly pulled in instead (and hence the new generalized type class is marked unused)

**Comment by vlad902** [comment]
!bench

File: Mathlib/Topology/Separation/Basic.lean [hunk 1]
```diff
@@ -754,7 +754,7 @@ theorem IsPreconnected.infinite_of_nontrivial [T1Space X] {s : Set X} (h : IsPre
   haveI := @Finite.instDiscreteTopology s _ _ hf.to_subtype
   exact @PreconnectedSpace.trivial_of_discrete _ _ (Subtype.preconnectedSpace h) _
 
-theorem ConnectedSpace.infinite [ConnectedSpace X] [Nontrivial X] [T1Space X] : Infinite X :=
+theorem ConnectedSpace.infinite [PreconnectedSpace X] [Nontrivial X] [T1Space X] : Infinite X :=
```
Comment (vlad902) [inline Mathlib/Topology/Separation/Basic.lean:757]: Should be probably renamed/moved to match

File: Mathlib/Topology/Separation/CompletelyRegular.lean [hunk 2]
```diff
@@ -91,14 +91,14 @@ instance T35Space.instT3space [T35Space X] : T3Space X := {}
 
 instance T4Space.instT35Space [T4Space X] : T35Space X := {}
 
-lemma separatesPoints_continuous_of_t35Space [T35Space X] :
+lemma separatesPoints_continuous_of_t35Space [CompletelyRegularSpace X] :
```
Comment (vlad902) [inline Mathlib/Topology/Separation/CompletelyRegular.lean:94]: Should be probably renamed/moved to match

File: Mathlib/Topology/Separation/CompletelyRegular.lean [hunk 3]
```diff
@@ -91,14 +91,14 @@ instance T35Space.instT3space [T35Space X] : T3Space X := {}
...
     SeparatesPoints (Continuous : Set (X → ℝ)) := by
   intro x y x_ne_y
   obtain ⟨f, f_cont, f_zero, f_one⟩ :=
     CompletelyRegularSpace.completely_regular x {y} isClosed_singleton x_ne_y
   exact ⟨fun x ↦ f x, continuous_subtype_val.comp f_cont, by aesop⟩
 
-lemma separatesPoints_continuous_of_t35Space_Icc [T35Space X] :
+lemma separatesPoints_continuous_of_t35Space_Icc [CompletelyRegularSpace X] :
```
Comment (vlad902) [inline Mathlib/Topology/Separation/CompletelyRegular.lean:101]: Should be probably renamed/moved to match

File: Mathlib/RingTheory/DedekindDomain/Dvr.lean [hunk 4]
```diff
@@ -124,7 +124,7 @@ theorem IsLocalization.AtPrime.not_isField {P : Ideal A} (hP : P ≠ ⊥) [pP :
             x_ne)))
 
 /-- In a Dedekind domain, the localization at every nonzero prime ideal is a DVR. -/
```
Comment (vlad902) [inline Mathlib/RingTheory/DedekindDomain/Dvr.lean:126]: Comment no longer matches

**Comment by vlad902** [comment]
This has been superseded by smaller individual PRs.
